US06338959B1
One ml of a culture of strain HB101(pPU100) which had been cultured overnight using 5 ml of an LB medium (containing tetracycline) was inoculated into 100 ml of an LB medium (containing tetracycline), followed by shaking culture at 37° C. for 24 hours. Subsequently, the cells collected through centrifugal separation were suspended in Tris-HCl buffer (pH 8.0) and the cells were disrupted by sonication. The cell debris was removed by centrifugal separation, and the supernatant was used as a cell-free extract. Similarly, a control cell-free extract was prepared using strain HB101(pBR322). Pullulanase activity of these extracts was measured. The pullulanase activity was measured by first causing a reaction in a reaction mixture containing 40 mM glycine-NaCl—NaOH buffer (pH 10) and pullulan (final concentration=0.25%) at 40° C. for 30 minutes, and the resultant reducing sugar was quantitatively determined by the 3,5-dinitrosalicylic acid (DNS) method (Miller, G. L., et al., Anal. Biochem., 2, 127 (1960)). The amount of enzyme which produces a quantity per minute of reducing sugar equivalent to 1 μmol of glucose is taken as 1 unit. As a result, pullulanase activity was detected in a cell-free extract of strain HB101(pPU100). Further, when the optimum working pH of the produced pullulanase was measured, it was found that the pullulanase was in fact an alkaline pullulanase having the optimum working pH of pH 9.5. For the measurement of enzymatic activity, the following buffers (each at 40 mM) were used:

reactant | tetracycline | C[C@]1(C=2C=CC=C(C2C(=O)C3=C([C@]4([C@@H](C[C@@H]31)[C@@H](C(=C(C4=O)C(=O)N)O)N(C)C)O)O)O)O | C22H24N2O8
reactant | glycine NaCl NaOH | 40 mM, pH 10 | NCC(=O)O.[Na+].[Cl-].[OH-].[Na+]
reactant | 3,5-dinitrosalicylic acid | [N+](=O)([O-])C1=C(C(C(=O)O)=CC(=C1)[N+](=O)[O-])O | C7H4N2O7
product | glucose | 1 μmol | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
